US06340746B1
b. (N′,N′-Dimethyl-3-aminopropyl)-2-thiazolidinone
To a solution of 2-thiazolidinone (4.15 g, 40.18 mmol) in acetonitrile (60 ml) were added potassium carbonate (13.3 g 96.2 mmol), N,N-dimethyl-3-aminopropyl chloride hydrochloride (7.63 g, 48.3 mmol), and 18-crown-6 (catalytic amount). The mixture was refluxed for 18 hours, solvent removed in vacuo, then redissolved in dichloromethane and 1 M potassium chloride (40 ml each). The aqueous phase was isolated and extracted twice with 30 ml portions of dichloromethane. The combined organic fraction was washed with saturated sodium chloride (˜50 ml), dried over sodium sulfate, filtered, and dried in vacuo. The crude product was purified via silica gel chromatography, using a 10:1 ratio of silica gel A, 200-425 mesh, and eluting with 5% methanol in chloroform, yielding 1.15 g (15%) pure product.

reactant | 2-thiazolidinone | 40.18 mmol, 4.15 g | S1C(NCC1)=O | C3H5NOS
reactant | potassium carbonate | 96.2 mmol, 13.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl-3-aminopropyl chloride hydrochloride | 48.3 mmol, 7.63 g | Cl.CN(CCCCl)C
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | (N′,N′-Dimethyl-3-aminopropyl)-2-thiazolidinone | 1.15 g, 15% | CN(CCCN1C(SCC1)=O)C | C8H16N2OS
